US07030107B2
5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (729 mg) was dissolved in methylene chloride (10 mL) and 3-chloroperbenzoic acid (524 mg) was added to the solution. The resulting mixture was then stirred at room temperature for 24 hours. The reaction mixture was purified on a silica gel column chromatography (ethyl acetate:methanol=5:1) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine 10-oxide (411 mg, 54%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 729 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3C3=CC=CC=C3)=O)C=C(C1)C(F)(F)F)(F)F | C24H18F6N2O2
reactant | 3-chloroperbenzoic acid | 524 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-6-oxo-7-phenyl-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine 10-oxide | 411 mg, 54% | FC(C=1C=C(CN2C(C3=C(OCCC2)[N+](=CC=C3C3=CC=CC=C3)[O-])=O)C=C(C1)C(F)(F)F)(F)F | C24H18F6N2O3
